US04395350
Preparation of 4-nitro-4'-heptyloxy-azobenzene
A mixture of 3.1 g of 4-nitro-4'-hydroxy-azobenzene, 15 mg of sodium iodide, 2.27 g of 1-bromo-heptane, 1.8 g of potassium carbonate and 20 ml of ethanol is heated under reflux for 60 hours. The solvent is removed in vacuo, water is added and the mixture is exhaustively extracted with methylene chloride. The residue of 4.0 g (brown crystals) of 4-nitro-4'-heptyloxy-azobenzene, which remains after drying with sodium sulfate and removing the solvent by evaporation, is chromatographed on a column of 200 g of silica gel with methylene chloride. By recrystallization of the uniform fractions from acetone/hexane there is obtained the pure compound as orange crystals; m.p. 82.3°-83.2° C., liquid crystalline, conversion at 93.7° C., cl.p. 96.4° C.

reactant | 4-nitro-4'-hydroxy-azobenzene | 3.1 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C=C1)O | C12H9N3O3
reactant | sodium iodide | 15 mg | [I-].[Na+]
reactant | 1-bromo-heptane | 2.27 g | BrCCCCCCC | C7H15Br
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-nitro-4'-heptyloxy-azobenzene | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C=C1)OCCCCCCC | C19H23N3O3
